US04423213
To a solution of benzhydryl 7-(2-benzyloxycarbonylmethoxyimino-4-bromo-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylate (2.5 g) in tetrahydrofuran (25 ml) was added a solution of thiourea (0.78 g) and sodium acetate (0.34 g) in water (10 ml), followed by stirring at 35° C. for 4 hours. The reaction mixture was extracted with ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride and dried over magnesium sulfate. Removal of the solvent gave benzhydryl 7-[2-benzyloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.0 g).

reactant | benzhydryl 7-(2-benzyloxycarbonylmethoxyimino-4-bromo-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylate | 2.5 g | C(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(CBr)=O | C35H30BrN3O8S
reactant | thiourea | 0.78 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 0.34 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | benzhydryl 7-[2-benzyloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 2.0 g | C(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C36H31N5O7S2
